US06166028
Furan-2-carboxylic acid (4-{3-[4-(1-amino-ethyl)-3-chloro-phenyl]-thioureido}-phenyl)-amide
To a solution of tin(II) chloride dihydrate (0.25 g) in methanol (2.5 mL) is added furan-2-carboxylic acid (4- {3-[4-(1-azido-ethyl)-3-chloro-phenyl]-thioureido}-phenyl)-amide (0.22 g) and the solution is stirred for approximately 15 hours at room temperature. The solution is then diluted with ethyl acetate, washed successively with saturated aqueous sodium bicarbonate then saturated aqueous sodium chloride, then dried over anhydrous sodium sulfate. After removal of the solvent by evaporation under reduced pressure the residue is chromatographed over silica gel (8% methanol in dichloromethane containing 1% triethylamine is used as the eluant) to provide the desired product as a yellow solid.

reactant | tin(II) chloride dihydrate | 0.25 g | O.O.[Sn](Cl)Cl
reactant | furan-2-carboxylic acid (4- {3-[4-(1-azido-ethyl)-3-chloro-phenyl]-thioureido}-phenyl)-amide | 0.22 g | N(=[N+]=[N-])C(C)C1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)NC(=O)C=1OC=CC1)=S)Cl | C20H17ClN6O2S
solvent | methanol | 2.5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Furan-2-carboxylic acid (4-{3-[4-(1-amino-ethyl)-3-chloro-phenyl]-thioureido}-phenyl)-amide | NC(C)C1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)NC(=O)C=1OC=CC1)=S)Cl | C20H19ClN4O2S
